US05710314
A solution of 8.0 g of α-difluoromethoxyimino-o-tolylacetonitrile and 0.07 g of dibenzoyl peroxide in 50 ml of carbon tetrachloride is heated to reflux. With radiation from a lamp, 6.77 g of N-bromosuccinimide are added thereto in several small portions and the mixture is left to react for 0.5 hour. The reaction mixture is cooled to room temperature, the succinimide is filtered off and the residue is concentrated by evaporation. Chromatography on silica gel with hexane/ethyl acetate (15:1) yields pure 2-(2-bromomethylphenyl)-2-difluoromethoxyimino-acetonitrile in the form of a pale yellow oil.

reactant | α-difluoromethoxyimino-o-tolylacetonitrile | 8.0 g | FC(ON=C(C#N)C1=C(C=CC=C1)C)F | C10H8F2N2O
reactant | dibenzoyl peroxide | 0.07 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 6.77 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(2-bromomethylphenyl)-2-difluoromethoxyimino-acetonitrile | BrCC1=C(C=CC=C1)C(C#N)=NOC(F)F | C10H7BrF2N2O
